US07666879B2
B. (3-Amino-5-trifluoromethyl-phenyl)-morpholin-4-yl-methanone
Dissolve the morpholin-4-yl-(3-nitro-5-trifluoromethyl-phenyl)-methanone (830 mg, 2.7 mmol) in MeOH (40 mL) at room temperature. Add ammonium chloride (3 g, 56 mmol) and stir at for 10 minutes before adding Zn powder (5 g, 76 mmol) with stirring for another 5-10 minutes. Filter and wash with MeOH. Concentrate to a white solid of 2 g material, containing excess ammonium chloride. LCMS (ES), m/z 275 (M+1). Use in the next step without further purification.

reactant | morpholin-4-yl-(3-nitro-5-trifluoromethyl-phenyl)-methanone | 2.7 mmol, 830 mg | N1(CCOCC1)C(=O)C1=CC(=CC(=C1)C(F)(F)F)[N+](=O)[O-] | C12H11F3N2O4
reactant | ammonium chloride | 56 mmol, 3 g | [Cl-].[NH4+]
solvent | MeOH | 40 mL | CO | CH4O
catalyst | Zn | 76 mmol, 5 g | [Zn] | Zn
product | (3-Amino-5-trifluoromethyl-phenyl)-morpholin-4-yl-methanone | NC=1C=C(C=C(C1)C(F)(F)F)C(=O)N1CCOCC1 | C12H13F3N2O2
